US07541357B2
To a solution of 2-anisaldehyde (5.56 g, 40 mmol) in methanol (40 mL) was added methylamine (40 wt % solution in water, 6.9 mL, 80 mol) and acetic acid (240 mg, 4 mmol). The reaction mixture was stirred at room temperature for 16 hours and then cooled in an ice bath. To this ice-cooled mixture was added sodium borohydride (1.51 g, 40 mmol) in portions. The reaction mixture was stirred at room temperature for 3 hours. Most of the solvent was removed under the reduced pressure. The residue was diluted with water (100 mL) and ethyl acetate (100 mL). The organic layer was separated and the aqueous layer was extracted with ethyl acetate twice. The combined extracts were washed with brine, dried over sodium sulfate and concentrated to provide the desired 2-methoxybenzyl methylamine (4.7 g, 79%): 1H NMR (CDCl3, 500 MHz) δ 7.23 (d, J=7.4 Hz, 2H), 6.91 (t, J=7.4 Hz, 1H), 6.86 (d, J=7.9 Hz, 1H), 3.83 (s, 3H), 3.75 (s, 2H), 2.42 (s, 3H); ESI MS m/Z=152 [M+H]+. This crude product was used in the next step without further purification.

reactant | 2-anisaldehyde | 40 mmol, 5.56 g | C(C=1C(=CC=CC1)OC)=O | C8H8O2
reactant | methylamine | 80 mol, 6.9 mL | CN | CH5N
reactant | acetic acid | 4 mmol, 240 mg | C(C)(=O)O | C2H4O2
reactant | sodium borohydride | 40 mmol, 1.51 g | [BH4-].[Na+]
solvent | methanol | 40 mL | CO | CH4O
product | 2-methoxybenzyl methylamine | 4.7 g, 79% | COC1=C(CNC)C=CC=C1 | C9H13NO
